US09120792B2
0.37 g of potassium hydroxide dissolved in 1 ml of an aqueous solution was added to a mixture of 0.71 g of 5-ethylthiothiazole-4-carboxylic acid ethyl ester and 5 ml of methanol, under ice cooling, then the mixture was stirred at room temperature for 2 hours. 1 N hydrochloric acid was poured into the reaction mixture under ice cooling, and the precipitated solid was filtered. The resulting solid was washed with 0.1 N hydrochloric acid and n-hexane, then dried to obtain 0.59 g of 5-ethylthiothiazole-4-carboxylic acid hydrochloride.

reactant | potassium hydroxide | 0.37 g | [OH-].[K+]
reactant | 5-ethylthiothiazole-4-carboxylic acid ethyl ester | 0.71 g | C(C)OC(=O)C=1N=CSC1SCC | C8H11NO2S2
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
product | 5-ethylthiothiazole-4-carboxylic acid hydrochloride | 0.59 g | Cl.C(C)SC1=C(N=CS1)C(=O)O | InChI=1S/C6H7NO2S2.ClH/c1-2-10-6-4(5(8)9)7-3-11-6;/h3H,2H2,1H3,(H,8,9);1H
